US09238639B2
A) Methyl(4-cyclopropyl-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate (512 mg) and DMF (10 mL) were added cyclopropylboronic acid (167 mg), potassium phosphate (1238 mg), Pd(OAc)2 (21.83 mg) and tricyclohexylphosphine (82 mg) at room temperature, and the mixture was refluxed for 16 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (372 mg).

reactant | methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 512 mg | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)OS(=O)(=O)C(F)(F)F)=O | C21H29F3O6S2Si
reactant | cyclopropylboronic acid | 167 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 1238 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 82 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | Pd(OAc)2 | 21.83 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl(4-cyclopropyl-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 372 mg | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)C2CC2)=O | C23H34O3SSi
